US06093744
N-Chlorosulfonyl isocyanate (1.02 mL, 11.7 mmol) was added to a warm solution of 2,6-diisopropyl-4-thiocyanato-phenol (2.5 g, 10.6 mmol) in 150 mL toluene. The resulting solution was heated to reflux for 6 hours and then cooled to room temperature and stirred overnight. The reaction was concentrated in vacuo and the residue was quenched with ice water and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated to give 1.75 g of sulfamic acid 2,6-diisopropyl-4-thiocyanato-phenyl ester as a white solid.

reactant | N-Chlorosulfonyl isocyanate | 11.7 mmol, 1.02 mL | C(=NS(=O)(=O)Cl)=O | CClNO3S
reactant | 2,6-diisopropyl-4-thiocyanato-phenol | 10.6 mmol, 2.5 g | C(C)(C)C1=C(C(=CC(=C1)SC#N)C(C)C)O | C13H17NOS
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | sulfamic acid 2,6-diisopropyl-4-thiocyanato-phenyl ester | 1.75 g | C(C)(C)C1=C(C(=CC(=C1)SC#N)C(C)C)OS(N)(=O)=O | C13H18N2O3S2
